US06080750
2-Amino-6-chloro-4-[(2-hydroxyethyl)amino]pyrimidine (compound No. 105)
To 2-hydroxyethylamine (2.6 g, 42.7 mmol) were added 2-amino-4,6-dichloropyrimidine (7.0 g, 42.7 mmol), ethanol (150 ml) and triethylamine (6.6 ml), and the mixture was refluxed for one day. The solvent was distilled away under reduced pressure and the residue was washed with water, which was followed by recrystallization from chloroform to give yellow prism crystals (4.8 g, 59.6%), m.p. 143-146° C. (chloroform).

reactant | 2-hydroxyethylamine | 42.7 mmol, 2.6 g | OCCN | C2H7NO
reactant | 2-amino-4,6-dichloropyrimidine | 42.7 mmol, 7.0 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | triethylamine | 6.6 ml | C(C)N(CC)CC | C6H15N
product | 2-Amino-6-chloro-4-[(2-hydroxyethyl)amino]pyrimidine | 4.8 g, 59.6% | NC1=NC(=CC(=N1)NCCO)Cl | C6H9ClN4O
